US08648066B2
1,1-dimethylethyl 7-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
tent-Butyl-5-bromo-2-hydroxybenzyl(2-hydroxyethyl)carbamate (3.46 g, 10 mmol) and triphenylphosphine (3.96 g, 15 mmol) were combined in DCM (100 mL) and diisopropyl azodicarboxylate (3.03 g, 15 mmol) was added. The resulting reaction mixture was stirred at rt for 12 h. The reaction mixture was washed with water, dried, filtered, and concentrated on a rotary evaporator. The resulting crude product was purified via silica gel chromatography eluting with 8:2 hexane/ethyl acetate to give the desired product (1.74 g, 53%) as a white solid. MS (EI) for C14H18BrNO3, found 328 (MH+).

reactant | Butyl-5-bromo-2-hydroxybenzyl(2-hydroxyethyl)carbamate | 10 mmol, 3.46 g | C(CCC)OC(N(CCO)CC1=C(C=CC(=C1)Br)O)=O | C14H20BrNO4
reactant | triphenylphosphine | 15 mmol, 3.96 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 15 mmol, 3.03 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl 7-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.74 g, 53% | BrC=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C14H18BrNO3
